US04211720
1-Cyano-2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid (1.5 g) was dissolved in dimethylformamide (10 ml) and the solution was saturated with gaseous ammonia at 20° C. The solution was then stirred at 130° C. for 18 hours, then diluted with water (150 ml) and extracted with pentane. The extracts were dried (MgSO4) and the solvent was removed under reduced pressure to give the required 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane nitrile, yield 82%.

reactant | 1-Cyano-2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid | 1.5 g | C(#N)C1(C(C1(C)C)C=C(Cl)Cl)C(=O)O | C9H9Cl2NO2
reactant | ammonia | N | H3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane nitrile | yield 82% | ClC(=CC1C(C1(C)C)C#N)Cl | C8H9Cl2N
